US05977139
Combine 1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine (4.5 g 9.9 mmol) and dichloromethane/pyridine (70 mL, 6/1). Add acetic anhydride (1.04 mL, 11.0 mmol) and 4-dimethylaminopyridine (50 mg, 0.41 mmol). After 2 hours, concentrate the reaction mixture in vacuo to obtain a residue. Dissolve the residue in ethyl acetate and extract with 1M hydrochloric acid solution (2×200 mL), saturated sodium bicarbonate solutions and saturated sodium chloride solution. Dry the organic layer over MgSO4, filters and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with ethyl acetate to give 1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-acetoxyethyl)pyrrolidine: Rf =0.38 (silica gel, ethyl acetate). Elemental Analysis calculated for C24H27Cl2NO6 : C 58.07; H 5.48; N 2.82; Found: C 57.67; H 5.46; N 2.84.

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine | 9.9 mmol, 4.5 g | COC=1C=C(C(=O)N2CC(CC2)(CCO)C2=CC(=C(C=C2)Cl)Cl)C=C(C1OC)OC | C22H25Cl2NO5
reactant | dichloromethane pyridine | 70 mL | ClCCl.N1=CC=CC=C1
reactant | acetic anhydride | 11.0 mmol, 1.04 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 0.41 mmol, 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-acetoxyethyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(CCOC(C)=O)C2=CC(=C(C=C2)Cl)Cl)C=C(C1OC)OC | C24H27Cl2NO6
